US06656938B2
A solution of tert-butyl 2-(2-azidoethoxy)ethylcarbamate (47.0 g, 0.204 mol) in MeOH was treated with 4 g of 10% Pd on carbon and shaken under H2 (3 Kg/cm2) for 24 h. The solution was then filtered through a Celite pad and concentrated to give 35.3 g of crude tert-butyl 2-(2-aminoethoxy)ethylcarbamate as a colorless liquid that was used without further purification.

reactant | tert-butyl 2-(2-azidoethoxy)ethylcarbamate | 0.204 mol, 47.0 g | N(=[N+]=[N-])CCOCCNC(OC(C)(C)C)=O | C9H18N4O3
solvent | MeOH | CO | CH4O
catalyst | Pd on carbon | 4 g | [Pd] | Pd
product | tert-butyl 2-(2-aminoethoxy)ethylcarbamate | 35.3 g | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
